US06824882B2
A mixture of 18.04 g of 1-bromo-6-(nonafluorobutyl)hexane and 19.6 g of triethyl phosphite was heated at 150° C. After 18 hr, an additional 10.0 g of triethyl phosphite was added, and heating was continued for 8 hr more. Diethyl ethylphosphonate and other volatiles were removed by distillation, b.p. 30-50° C. at 0.05 torr (7 Pa), and bulb-to-bulb distillation of the concentrate provided 18.88 g of 1-(diethylphosphono)-6-(nonafluorobutyl)hexane as a clear, colorless liquid, b.p. 120-130° C. at 0.05 torr (7 Pa).

reactant | 1-bromo-6-(nonafluorobutyl)hexane | 18.04 g | BrCCCCCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C10H12BrF9
reactant | triethyl phosphite | 19.6 g | P(OCC)(OCC)OCC | C6H15O3P
reactant | triethyl phosphite | 10.0 g | P(OCC)(OCC)OCC | C6H15O3P
product | 1-(diethylphosphono)-6-(nonafluorobutyl)hexane | 18.88 g | C(C)OP(=O)(OCC)CCCCCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C14H22F9O3P
